US05135932
6-[3-[2-[3-(2-Allyloxy-phenoxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-(2-allyloxy-phenoxy)-2,3-epoxypropane and 6-[3-(2-aminoethoxy)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone.

reactant | 1-(2-allyloxy-phenoxy)-2,3-epoxypropane | C(C=C)OC1=C(OCC2CO2)C=CC=C1 | C12H14O3
reactant | 6-[3-(2-aminoethoxy)phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | NCCOC=1C=C(C=CC1)C=1C(CC(NN1)=O)C | C13H17N3O2
product | 6-[3-[2-[3-(2-Allyloxy-phenoxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | C(C=C)OC1=C(OCC(CNCCOC=2C=C(C=CC2)C=2C(CC(NN2)=O)C)O)C=CC=C1 | C25H31N3O5
